US09023849B2
2-[1-(2-Fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]pyrazol-3-yl]-4-iodo-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one
285 mg (0.68 mmol) of 4-amino-2-[1-(2-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]pyrazol-3-yl]-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one were initially charged in absolute dimethoxyethane, and 800 mg (6.83 mmol) of isopentyl nitrite, 87 mg (0.34 mmol) of iodine, 39 mg (0.21 mmol) of copper(I) iodide and 177 mg (0.68 mmol) of caesium iodide were added. The mixture was stirred at 100° C. for 40 min. The mixture was concentrated on a rotary evaporator, and the residue was taken up in dichloromethane and washed with 5% aqueous sodium thiosulphate solution and saturated aqueous sodium chloride solution. The organic phase was dried over sodium sulphate, concentrated and purified by means of preparative HPLC (eluent: acetonitrile/water with 0.1% acetic acid, gradient 20:80→100:0). 148 mg (40% of theory) of the target compound were obtained.

reactant | 4-amino-2-[1-(2-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]pyrazol-3-yl]-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one | 0.68 mmol, 285 mg | NC=1C2=C(N=C(N1)C=1C3=C(N(N1)CC1=C(C=CC=C1)F)CCC3)NC(C2(C)C)=O | C21H21FN6O
reactant | isopentyl nitrite | 6.83 mmol, 800 mg | N(=O)OCCC(C)C | C5H11NO2
reactant | iodine | 0.34 mmol, 87 mg | II | I2
reactant | caesium iodide | 0.68 mmol, 177 mg | [I-].[Cs+]
solvent | dimethoxyethane | C(OC)COC | C4H10O2
catalyst | copper(I) iodide | 0.21 mmol, 39 mg | [Cu]I
product | 2-[1-(2-Fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]pyrazol-3-yl]-4-iodo-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one | FC1=C(CN2N=C(C3=C2CCC3)C=3N=C(C2=C(N3)NC(C2(C)C)=O)I)C=CC=C1 | C21H19FIN5O
